US03997568
(2-(10(R)-Hydroxy-6-oxo-trans-undecenyl)-4,6-dibenzyloxybenzoic Acid)
To a solution of 20 g. of 2-(10(R)-hydroxy-6-ethylenedioxy-trans-undecenyl)-4,6-dibenzyloxybenzoic acid in 150 ml. of tetrahydrofuran is added, while cooling, 100 ml. of an aqueous solution containing 220 g. perchloric acid per liter. The mixture is stirred for 6 hours at room temperature, then poured into water and extracted with chloroform. The extract is washed with water and an aqueous solution saturated with sodium chloride and is dried over sodium sulfate. Upon removal of the solvents, 17.8 g. of oil containing 2-(10(R)-hydroxy-6-oxo-trans-undecenyl)-4,6-dibenzyloxybenzoic acid are obtained.

reactant | 2-(10(R)-hydroxy-6-ethylenedioxy-trans-undecenyl)-4,6-dibenzyloxybenzoic acid | O[C@@H](CCC1C(CCC/C=C/C2=C(C(=O)O)C(=CC(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCCO1)C | C34H40O7
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | water | O | H2O
product | 2-(10(R)-Hydroxy-6-oxo-trans-undecenyl)-4,6-dibenzyloxybenzoic Acid | O[C@@H](CCCC(CCC/C=C/C1=C(C(=O)O)C(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C | C32H36O6
